US08293781B2
Ethyl 3-[1-(4-phenoxyphenyl)-3-(2-phenylethyl)-1H-indol-5-yl]propanoate
The same reaction was performed as in Example 148 except for using, instead of the 2-bromonitrobenzene, 4-bromodiphenyl ether. That is, to a solution of the compound obtained at Example 142 (60 mg) in n-butyl acetate (4.5 ml) were added 4-bromodiphenyl ether (93 mg), palladium acetate (4.3 mg), 2-(di-tert-butylphosphino)biphenyl (11.4 mg) and tripotassium phosphate (161 mg), and the mixture was heated and stirred at 120° C. for 24 hours. The reaction mixture was cooled to room temperature, then the insolubles were filtered off, the filtrate was distilled off in vacuo and the residue obtained was purified by silica gel column chromatography (hexane:ethyl acetate=9:1 to 3:2) to afford the above-identified compound (77 mg).

reactant | 2-bromonitrobenzene | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 4-bromodiphenyl ether | C1=CC=C(C=C1)OC2=CC=C(C=C2)Br | C12H9BrO
reactant | 4-bromodiphenyl ether | 93 mg | C1=CC=C(C=C1)OC2=CC=C(C=C2)Br | C12H9BrO
reactant | 2-(di-tert-butylphosphino)biphenyl | 11.4 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | tripotassium phosphate | 161 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | n-butyl acetate | 4.5 ml | C(C)(=O)OCCCC | C6H12O2
catalyst | palladium acetate | 4.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 3-[1-(4-phenoxyphenyl)-3-(2-phenylethyl)-1H-indol-5-yl]propanoate | 77 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)CCC(=O)OCC)CCC1=CC=CC=C1 | C33H31NO3
